* Z:\home\marc\projects\Band_Gap_Reference\current_density_comparisons.asc
Q1 N001 N003 N005 0 NPN
Q2 N002 N003 N004 0 NPN
R1 N004 N005 1k
V1 Vdd 0 5
Q3 N002 N003 N004 0 NPN
Q4 N002 N003 N004 0 NPN
Q5 N002 N003 N004 0 NPN
Q6 N002 N003 N004 0 NPN
Q7 N002 N003 N004 0 NPN
Q8 N002 N003 N004 0 NPN
Q9 N002 N003 N004 0 NPN
R2 Vdd N002 10k
R3 Vdd N001 10k
XU1 N001 N002 Vdd 0 N003 level2 Avol=1Meg GBW=1.5Meg Slew=1.3Meg ilimit=15m rail=0 Vos=0 phimargin=50 en=0 enk=0 in=0 ink=0 Rin=10E12
R4 N005 0 4.619k
.model NPN NPN
.model PNP PNP
.lib C:\users\marc\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.include engr2420.sub
.tran 0 10n 0
* step param R1 1k 10k 1k
.step temp -60 140 5
.lib UniversalOpAmp2.lib
.backanno
.end
